US05169860
Preparation of N-[[(3,4 dichlorophenyl)amino]carbonyl]-2-benzofuransulfonamide
2-Benzofuransulfonamide (7.6 mmol), prepared as described in Example 1, was reacted with 3,4-dichlorophenylisocyanate (7.6 mmol) as described in Method A to obtain 2.4 g of the title product as a solid. 1H NMR (CD3SOCD3): δ9.43 (s, 1 H), 7.88 (d, J =8 Hz, 1 H), 7.85 (s, 1 H), 7.80 (m, 1 H), 7.76 (m, 1 H), 7.59 (dd, J =6, 8 Hz, 1 H), 7.52 (d, J =8 Hz, 1 H), 7.45 (dd, J =6, 8 Hz, 1 H), 7.35 (dd, J =3, 6 Hz, 1 H).

reactant | 2-Benzofuransulfonamide | 7.6 mmol | O1C(=CC2=C1C=CC=C2)S(=O)(=O)N | C8H7NO3S
reactant | 3,4-dichlorophenylisocyanate | 7.6 mmol | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
product | N-[[(3,4 dichlorophenyl)amino]carbonyl]-2-benzofuransulfonamide | 2.4 g | ClC=1C=C(C=CC1Cl)NC(=O)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C15H10Cl2N2O4S
